US03939122
200 g of an approximately 30 % solution of the dihydantoin in cresol is mixed with a solution of 350 g of a polyester obtained from 1,6 mol terephthalic acid dimethylester, 1,2 mol ethylene glycol and 0,8 mol glycerine in 820 g m-cresol at 50°C. A homogeneous solution having a viscosity of 7480 cP20°C is obtained. This solution is applied to metal sheet and stoved to a clear, hard lacquer film in stages at 240°C and 300°C.

reactant | dihydantoin | C1=CC=C(C=C1)C2(C(=O)NC(=O)N2)C3=CC=CC=C3 | C15H12N2O2
reactant | ethylene glycol | 1,2 mol | C(CO)O | C2H6O2
reactant | glycerine | 0,8 mol | OCC(O)CO | C3H8O3
reactant | cresol | C1(=CC=CC=C1O)C | C7H8O
solvent | m-cresol | 820 g | C1=C(C=CC=C1O)C | C7H8O
product | terephthalic acid dimethylester | 1,6 mol | COC(C1=CC=C(C(=O)OC)C=C1)=O | C10H10O4
